US03950333
Reaction of 3-[(2-aminoethyl)thiomethyl]isoxazole with S-methyl-isothiourea by the procedure of Example 1 gives [2-(3-isoxazolylmethylthio)ethyl]guanidine.

reactant | 3-[(2-aminoethyl)thiomethyl]isoxazole | NCCSCC1=NOC=C1 | C6H10N2OS
reactant | S-methyl-isothiourea | CSC(N)=N | C2H6N2S
product | [2-(3-isoxazolylmethylthio)ethyl]guanidine | O1N=C(C=C1)CSCCNC(=N)N | C7H12N4OS
